US04222935
2-Bromo-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino)azobenzene (2.4 parts), copper (I) iodide (0.95 parts), anhydrous sodium acetate (1.2 parts), formamide (1.8 parts), propionic anhydride (2.6 parts) and n-butyl acetate (44 parts) are mixed together are heated, with stirring, to 110° C. during 15 minutes. The temperature is maintained for 30 minutes when reaction is adjudged complete by thin layer chromatography. The mixture is cooled to room temperature and poured into petroleum ether (boiling range 60-80° C.) (400 parts). The precipitate is collected, washed with petroleum ether (100 parts) and dried. 2-cyano-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino)azobenzene is obtained in 83.5% yield.

reactant | 2-Bromo-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino)azobenzene | BrC1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])N=NC1=C(C=C(C=C1)N(CC)CC)NC(C)=O | C18H19BrN6O5
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | formamide | C(=O)N | CH3NO
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
catalyst | copper (I) iodide | [Cu]I
solvent | n-butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | 2-cyano-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino)azobenzene | 83.5% yield | C(#N)C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])N=NC1=C(C=C(C=C1)N(CC)CC)NC(C)=O | C19H19N7O5
